US04123542
1-[2-Hydroxy-2-methyl-4-(4-chlorophenyl)-n-butyl]imidazole (2.60 g.) in 15 ml. of anhydrous dimethylformamide and 7.5 ml. of benzene is treated with 1.12 g. of a 50% dispersion of sodium hydride in mineral oil at room temperature under nitrogen. The mixture is stirred until the evolution of hydrogen ceases and then cooled in ice and treated with 900 mg. of manganese dioxide followed by 2.55 g. of 1-fluoro-4-nitrobenzene. After stirring for 3-4 hours at room temperature, the mixture is poured into 150 ml. of water, extracted with ether and the combined extracts washed with water, dried (MgSO4) and evaporated to yield 1-[2-(4-nitrophenoxy)-2-methyl-4-(4-chlorophenyl)-n-butyl]imidazole which may be purified, if necessary, by chromatography on silica gel eluting with 5-10% methanol in methylene chloride.

reactant | 1-[2-Hydroxy-2-methyl-4-(4-chlorophenyl)-n-butyl]imidazole | 2.60 g | OC(CN1C=NC=C1)(CCC1=CC=C(C=C1)Cl)C | C14H17ClN2O
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[2-(4-nitrophenoxy)-2-methyl-4-(4-chlorophenyl)-n-butyl]imidazole | [N+](=O)([O-])C1=CC=C(OC(CN2C=NC=C2)(CCC2=CC=C(C=C2)Cl)C)C=C1 | C20H20ClN3O3
